US08193359B2
4-(2-Chloro-2-oxazolo[4,5-c]pyridin-2-ylethyl)piperidine-1-carboxylic acid tert-butyl ester
MsCl (29 μL, 0.38 mmol) was added to a stirred solution of 4-(2-hydroxy-2-oxazolo[4,5-c]pyridin-2-yl-ethyl)piperidine-1-carboxylic acid tert-butyl ester (Preparation 7, 110 mg, 0.32 mmol) in anhydrous pyridine (5 mL) at 0° C. After 1 h, more MsCl (29 μL, 0.38 mmol) was added, then the mixture was stirred at 0° C. for an additional 1 h, before being heated under reflux for 1 h. The reaction was concentrated under reduced pressure, then the residue was purified by flash chromatography (EtOAc-IH, 7:3) to furnish the title compound: RT=3.57 min; m/z (ES+)=310.0 [M+2H-t-Bu]+.

reactant | MsCl | 0.38 mmol, 29 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(2-hydroxy-2-oxazolo[4,5-c]pyridin-2-yl-ethyl)piperidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 110 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C=1OC2=C(C=NC=C2)N1)O | C18H25N3O4
reactant | MsCl | 0.38 mmol, 29 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 4-(2-Chloro-2-oxazolo[4,5-c]pyridin-2-ylethyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C=1OC2=C(C=NC=C2)N1)Cl | C18H24ClN3O3
